US05536869
The present invention relates to a novel process for the preparation of ethyl 3S-[[4-[[4-(aminoiminomethyl)phenyl]amino]-1,4-dioxobutyl]amino]-4-pentynoate and pharmaceutically acceptable acid addition salt thereof which comprises treating (trimethylsilyl)acetylene sequentially with n-butyllithium and 4-formylmorpholine followed by acid hydrolysis to give 3-(trimethylsilyl)-2-propynal; treating 3-(trimethylsilyl)-2-propynal with lithium bis(trimethylsilyl)amide to give in situ N,3-bis(trimethylsilyl)-2-propyn-1-imine; condensation of N,3-bis(trimethylsilyl)-2-propyn-1-imine with lithium t-butyl acetate to give (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate; treating (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate- with p-toluenesulfonic acid to give (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate, mono p-toluenesulfonic acid salt, treatment of resulting salt with ethanol in the presence of p-toluenesulfonic acid to give (±)ethyl 3-amino-5-(trimethylsilyl)-4-pentynoate; desilylation of (±)ethyl 3-amino-5-(trimethylsilyl)-4-pentynoate to give in situ (±)ethyl 3-amino-4-pentynoate; resolution of (±)ethyl 3-amino-4-pentynoate using (R)-(-)-mandelic acid and treatment of the resolved product with gaseous hydrochloric acid to give ethyl 3S-amino-4-pentynoate, monohydrochloride; coupling the ethyl 3S-amino-4-pentynoate, monohydrochloride to 4-[[4-(aminoiminomethyl)phenyl]amino]-4-oxobutanoic acid, monohydrochloride in the presence of isobutyl chloroformate and N-methylmorpholine to give ethyl 3S-[[4-[[4-(aminoiminomethyl)phenyl]amino]-1,4-dioxobutyl]amino]-4-pentynoate, monohydrochloride.

reactant | N,3-bis(trimethylsilyl)-2-propyn-1-imine | C[Si](N=CC#C[Si](C)(C)C)(C)C | C9H19NSi2
reactant | lithium t-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | (±)1,1-dimethylethyl 3-amino-5-(trimethylsilyl)-4-pentynoate | NC(CC(=O)OC(C)(C)C)C#C[Si](C)(C)C | C12H23NO2Si
